US09085555B2
B. (2S,4S)-4-(9H-fluoren-9-ylmethoxycarbonylamino)-pyrrolidine-2-carboxylic acid benzyl ester
To a solution of (2S,4S)-4-(9H-fluoren-9-ylmethoxycarbonylamino)-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester (7.3 g, 13.49 mmol) in CH2Cl2 (45 mL) was added TFA (5.1 mL, 67.5 mmol). The solution was stirred at RT overnight. The solvent was concentrated and the residue co-evaporated three times with CH2Cl2 to remove the excess of TFA. The crude residue was taken-up in diethylether and the resulting precipitate filtered-off to give the title compound as a white powder. MS (LC/MS): 443.2 [MH]+; tR (HPLC conditions a): 3.3 min; 1H-NMR (400 MHz, DMSO): δ (ppm) 9.84 (s, 1H), 9.14 (s, 1H), 7.90 (d, 2H), 7.68 (d, 2H), 7.62 (d, 1H), 7.45-7.33 (m, 9H), 5.28-5.21 (m, 2H), 4.59-4.54 (m, 1H), 4.41 (d, 2H), 4.26-4.16 (m, 2H), 3.46-3.41 (m, 1H), 3.16-3.11 (m, 1H), 2.64-2.58 (m, 1H).

reactant | (2S,4S)-4-(9H-fluoren-9-ylmethoxycarbonylamino)-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 13.49 mmol, 7.3 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OCC1=CC=CC=C1 | C32H34N2O6
reactant | TFA | 67.5 mmol, 5.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | (2S,4S)-4-(9H-fluoren-9-ylmethoxycarbonylamino)-pyrrolidine-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1NC[C@H](C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C27H26N2O4
